US06900354B2
a) 1-(3-Fluorobenzyloxy)-4-iodo-benzene
A solution of 3.0 g (15.9 mmol) of 4-iodophenol and 3.49 g (15.9 mmol) of 3-fluorobenzyl bromide in 30 ml ethanol is treated dropwise at RT with 20 ml of a 1 molar solution of sodium ethanolate in ethanol. The reaction mixture is refluxed for 4 h and the precipitated sodium bromide is filtered off. The filtrate is evaporated to dryness, treated with 100 ml of water, acidified by addition of citric acid and extracted three times with dichloromethane. After drying and evaporation, the residue is subjected to chromatography on silica gel (hexane/ethyl acetate 9:1). This yields 4.23 g (81%) of a colorless solid. mp=48° C.

reactant | 4-iodophenol | 15.9 mmol, 3.0 g | IC1=CC=C(C=C1)O | C6H5IO
reactant | 3-fluorobenzyl bromide | 15.9 mmol, 3.49 g | FC=1C=C(CBr)C=CC1 | C7H6BrF
reactant | sodium ethanolate | C(C)[O-].[Na+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 1-(3-Fluorobenzyloxy)-4-iodo-benzene | FC=1C=C(COC2=CC=C(C=C2)I)C=CC1 | C13H10FIO
